US04070539
A solution of glacial acetic acid (50 ml.) and chlorine (0.40 g., 0.00565 mole) is added with stirred over a 10-minute period to a suspension of (1-oxo-2-isobutyl-6,7-dichloro-5-indanyloxy)acetic acid (1.6 g., 0.00485 mole) in glacial acetic acid (50 ml.) and concentrated hydrochloric acid (1 drop). During the addition the reaction vessel is heated on a steam bath. After the addition is complete, the mixture is stirred without heating for 30 minutes and then poured into ice water (200 ml.). The white solid thatseparates is collected by filtration, washed in water and dried to afford 1.0 g. (56% yield) of (1-oxo-2-isobutyl-2,6,7-trichloro-5-indanyloxy)acetic acid which after recrystallization from n-butyl chloride melts at 166° C.

reactant | chlorine | 0.00565 mole, 0.40 g | ClCl | Cl2
reactant | (1-oxo-2-isobutyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.00485 mole, 1.6 g | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)CC(C)C | C15H16Cl2O4
reactant | n-butyl chloride | C(CCC)Cl | C4H9Cl
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (1-oxo-2-isobutyl-2,6,7-trichloro-5-indanyloxy)acetic acid | 56% yield | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(Cl)CC(C)C | C15H15Cl3O4
